US04654343
N-Ethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide
To 6.1 g of N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide in 200 ml of dry dimethylformamide under argon, was added 1.1 g of sodium hydride (50% in oil). The mixture was stirred for one hour, then 1.86 ml of ethyl iodide was added. This mixture was stirred overnight and then treated as described in Example 1. The chromatography fractions containing the product were combined and the solid recrystallized as described in Example 1, giving 4.37 g of the desired product, mp 145°-148° C.

reactant | N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide | 6.1 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(CC)=O | C15H15N5O
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | ethyl iodide | 1.86 ml | C(C)I | C2H5I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-Ethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]propanamide | 4.37 g | C(C)N(C(CC)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C | C17H19N5O
